US04163846
3-Amino-2-methyl-6-(2-methylpropyl)-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one hydrochloride (I)
5-Amino-4-cyano-1-methyl-3-(3-methylbutanoylamino)pyrazole (10 g), prepared as in Example 27 was heated with 1 M sodium hydroxide solution (90 ml) for 2 hours. The solution was adjusted to pH=7 with concentrated hydrochloric acid, and was evaporated to dryness. The residue was extracted with acetone containing 5% water (100 ml). The extracts were evaporated, and the residue was dissolved in a minimum of hot ethanol. Then the solution was cooled and a precipitate which formed was filtered off. The filtrate was mixed with concentrate hydrochloric acid (5 ml) and the precipitate was recrystallised from water to give the title compound, m.p. 292°-294° C. decomp.

reactant | 5-Amino-4-cyano-1-methyl-3-(3-methylbutanoylamino)pyrazole | 10 g | NC1=C(C(=NN1C)NC(CC(C)C)=O)C#N | C10H15N5O
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 1 M, 90 ml | [OH-].[Na+]
product | 3-Amino-2-methyl-6-(2-methylpropyl)-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one hydrochloride | Cl.NC=1N(N=C2N=C(NC(C21)=O)CC(C)C)C | InChI=1S/C10H15N5O.ClH/c1-5(2)4-6-12-9-7(10(16)13-6)8(11)15(3)14-9;/h5H,4,11H2,1-3H3,(H,12,13,14,16);1H
